US07384963B2
N-(Cyclopropylmethyl)-2′-methyl-N-(4-methylbenzyl)-5′-(5-methyl-1,3,4-oxadiazol-2-yl)-1,1′-biphenyl-4-carboxamide was prepared from 2′-methyl-N-(4-methylbenzyl)-5′-(5-methyl-1,3,4-oxadiazol-2-yl)-1,1′-biphenyl-4-carboxamide and cyclopropylmethyl-bromide using method L. LCMS; retention time 3.85 min, MH+ 452.

reactant | 2′-methyl-N-(4-methylbenzyl)-5′-(5-methyl-1,3,4-oxadiazol-2-yl)-1,1′-biphenyl-4-carboxamide | CC1=C(C=C(C=C1)C=1OC(=NN1)C)C1=CC=C(C=C1)C(=O)NCC1=CC=C(C=C1)C | C25H23N3O2
reactant | cyclopropylmethyl-bromide | C1(CC1)CBr | C4H7Br
product | N-(Cyclopropylmethyl)-2′-methyl-N-(4-methylbenzyl)-5′-(5-methyl-1,3,4-oxadiazol-2-yl)-1,1′-biphenyl-4-carboxamide | C1(CC1)CN(C(=O)C1=CC=C(C=C1)C1=C(C=CC(=C1)C=1OC(=NN1)C)C)CC1=CC=C(C=C1)C | C29H29N3O2
